US04769369
6-Bromo-2-(3-carboxypropyl)phthalazin-1(2H)-one
To a slurry of 56 gm 6-bromophthalazin-1(2H)-one (0.25 mole) in 600 ml DMSO was added 110 ml 45% KOH followed by 58.5 gm ethyl 4-bromobutyrate. The temperature of the mildly exothermic reaction was moderated with a water bath (ca. 25° C.) and was stirred for 20 hours. Ethanol (750 ml) was added, then the mixture was acidified with 125 ml concentrated HCl, diluted with 2500 ml water over about 30 minutes, stirred an additional 30 minutes, filtered, washed with water and isopropanol and dried. The product weighed 63.6 gm. A tlc of the product showed product, Rf =0.43 plus a trace of starting material, Rf =0.63.

reactant | 6-bromophthalazin-1(2H)-one | 0.25 mole, 56 gm | BrC=1C=C2C=NNC(C2=CC1)=O | C8H5BrN2O
reactant | KOH | 110 ml | [OH-].[K+]
reactant | ethyl 4-bromobutyrate | 58.5 gm | BrCCCC(=O)OCC | C6H11BrO2
reactant | HCl | 125 ml | Cl | ClH
solvent | DMSO | 600 ml | CS(=O)C | C2H6OS
solvent | water | 2500 ml | O | H2O
solvent | Ethanol | 750 ml | C(C)O | C2H6O
product | 6-Bromo-2-(3-carboxypropyl)phthalazin-1(2H)-one | BrC=1C=C2C=NN(C(C2=CC1)=O)CCCC(=O)O | C12H11BrN2O3
